US06924393B2
The solid venlafaxine is further reacted with hydrochloric acid and crystallized to yield an essentially pure venlafaxine hydrochloride.

reactant | venlafaxine | CN(C)CC(C=1C=CC(=CC1)OC)C2(CCCCC2)O | C17H27NO2
reactant | hydrochloric acid | Cl | ClH
product | venlafaxine hydrochloride | CN(C)CC(C=1C=CC(=CC1)OC)C2(CCCCC2)O.Cl | InChI=1S/C17H27NO2.ClH/c1-18(2)13-16(17(19)11-5-4-6-12-17)14-7-9-15(20-3)10-8-14;/h7-10,16,19H,4-6,11-13H2,1-3H3;1H
